data/mechanism_extracts/MolDivers/10.1007_s11030-019-09979-8.json
{"doi": "10.1007_s11030-019-09979-8", "journal": "MolDivers", "is_review": false, "rxn_class_summary": "Electrochemical spirocyclopropanation of indane-1,3-dione with aromatic aldehydes or benzylidenemalononitriles via anodically-generated bromine mediator to afford spiro[indene-cyclopropane]tetraones and dihydrospiro[cyclopropane-indene]dicarbonitriles.", "mechanism_family": ["mediator_anodic", "anion_initiated", "paired_electrolysis"], "electrochemical_role": "Cathode reduces propanol to propoxide (with H2 evolution) generating the base; anode oxidizes Br- to Br2 which acts as a halogenating mediator on the Knoevenagel/Michael adduct enolate.", "key_intermediates": [{"name": "propoxide anion (base generated at cathode)", "smiles": "[O-]CCC", "role": "reactive"}, {"name": "indane-1,3-dione enolate (anion 1)", "smiles": "O=C1C=C(/[O-])c2ccccc12", "role": "reactive"}, {"name": "2-arylidene-indane-1,3-dione (Knoevenagel intermediate 4)", "smiles": null, "role": "transient"}, {"name": "Michael adduct of two indane-1,3-diones with aldehyde (intermediate 5)", "smiles": null, "role": "transient"}, {"name": "alpha-bromo Michael adduct (intermediate 6)", "smiles": null, "role": "reactive"}, {"name": "halodicarbanion (intermediate 7) / delocalized enolate (intermediate 8)", "smiles": null, "role": "reactive"}, {"name": "spirodihydrofuran 9 (from O-attack, path b)", "smiles": null, "role": "off_pathway"}, {"name": "benzylidenemalononitrile Michael adduct (intermediate 11)", "smiles": null, "role": "transient"}, {"name": "alpha-bromo malononitrile adduct (intermediate 13)", "smiles": null, "role": "reactive"}, {"name": "dihydrofuran-aminonitrile 15 (O-cyclization, off-pathway)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Cathodic reduction of ROH gives RO- (and 1/2 H2) which deprotonates indane-1,3-dione; Knoevenagel condensation with ArCHO followed by Michael addition of a second enolate builds a 1,3-dicarbonyl bis-adduct, whose enolate is brominated by Br2 generated from anodic oxidation of Br-; intramolecular C-alkylation (SN2-like displacement of Br by the second enolate carbon) closes the cyclopropane.", "rate_determining_step": null, "probe_reagents": [{"name": "13C NMR comparison of products 3j vs 9j (C- vs O-cyclization)", "smiles": null, "purpose": "other", "observation": "Experimental 13C shifts 37.9 and 51.4 ppm match calculated cyclopropane carbons of 3j (21.6, 51.2); no peak near 108 ppm expected for spirodihydrofuran 9j, confirming intramolecular C-attack (path a) over O-attack (path b)."}], "evidence_types_used": ["DFT", "other"], "evidence_strength": "weak", "notes": "Authors explicitly considered two divergent cyclization modes from the brominated enolate: path a (C-attack -> cyclopropane 3) vs path b (O-attack -> spirodihydrofuran 9); selectivity for path a supported by calculated vs experimental 13C NMR. An analogous bifurcation is invoked for the malononitrile series (cyclopropane 14 vs chromene-aminonitrile 15). No radical traps, KIE, or CV experiments were reported; mechanism is largely proposed by analogy."}
